US08258175B2
Distilled THF (10 mL) was added to 2-[4-(2-trimethylsilanylethoxymethoxy)-benzoyl]benzoic acid (1.86 g, 5 mmol) followed by thionyl chloride (0.43 mL, 6 mmol) and 3 drops of DMF. The system was stirred at room temperature under nitrogen for 2 h and monitored by TLC. The solvent was removed to give 3-chloro-3-[4-(2-trimethylsilanylethoxymethoxy)phenyl]-3H-isobenzofuran-1-one as a clear oil.

reactant | 2-[4-(2-trimethylsilanylethoxymethoxy)-benzoyl]benzoic acid | 5 mmol, 1.86 g | C[Si](CCOCOC1=CC=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C1)(C)C | C20H24O5Si
reactant | thionyl chloride | 6 mmol, 0.43 mL | S(=O)(Cl)Cl | Cl2OS
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
product | 3-chloro-3-[4-(2-trimethylsilanylethoxymethoxy)phenyl]-3H-isobenzofuran-1-one | ClC1(OC(C2=CC=CC=C12)=O)C1=CC=C(C=C1)OCOCC[Si](C)(C)C | C20H23ClO4Si
